US07199239B2
Intermediate 33: Ethyl [4-({(2-methoxyethyl)[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetate
To a solution of N-(2-methoxyethyl)-2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-amine (500 mg, 1.62 mmol) in acetonitrile (30 mL) was added ethyl [4-(bromomethyl)-2-methylphenoxy]acetate (488 mg, 1.7 mmol) and N,N-diisopropylethylamine (295 μl, 1.7 mmol). The resultant mixture was heated for 4.5 h at 80° C. On cooling the solvents were removed in vacuo, the residue diluted with water and extracted with CH2Cl2. The organic solution was passed through a hydrophobic frit and the solvent removed in vacuo. Purification by Biotage™ chromatography (silica, 40 g) eluted with 5% EtOAc/cyclohexane afforded the title compound as a colourless oil (503 mg).

reactant | N-(2-methoxyethyl)-2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-amine | 1.62 mmol, 500 mg | COCCNC=1C(=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C17H18F3NO
reactant | ethyl [4-(bromomethyl)-2-methylphenoxy]acetate | 1.7 mmol, 488 mg | BrCC1=CC(=C(OCC(=O)OCC)C=C1)C | C12H15BrO3
reactant | N,N-diisopropylethylamine | 1.7 mmol, 295 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | Ethyl [4-({(2-methoxyethyl)[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetate | 503 mg | COCCN(C=1C(=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)C)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C29H32F3NO4
